US09056859B2
Freshly prepared (3-methyl-1-oxo-3,4-dihydro-1H-isochromen-6-yl)acetaldehyde was dissolved in DCM. To the solution was added 2-methyl piperazine (221 mg, 2.2 mmol) followed by sodium cyanoborohydride (165 mg, 2.64 mmol). The reaction mixture was allowed to stir overnight before being quenched with 10 mL of 1N HCl followed by stirring for 30 minutes. The reaction mixture was then treated with 50 mL of saturated sodium bicarbonate solution and extracted with DCM (3×50 mL). The combined organic layers were washed with water and brine, dried with magnesium sulfate, filtered, concentrated and purified via MPLC (30-100% (10% IPA in DCM/DCM) to afford 3-methyl-6-[2-(3-methylpiperazin-1-yl)ethyl]-3,4-dihydro-1H-isochromen-1-one. LC-MS (IE, m/z): 289 [M+1]+.

reactant | (3-methyl-1-oxo-3,4-dihydro-1H-isochromen-6-yl)acetaldehyde | CC1OC(C2=CC=C(C=C2C1)CC=O)=O | C12H12O3
reactant | 2-methyl piperazine | 2.2 mmol, 221 mg | CC1NCCNC1 | C5H12N2
reactant | sodium cyanoborohydride | 2.64 mmol, 165 mg | C(#N)[BH3-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-methyl-6-[2-(3-methylpiperazin-1-yl)ethyl]-3,4-dihydro-1H-isochromen-1-one | CC1OC(C2=CC=C(C=C2C1)CCN1CC(NCC1)C)=O | C17H24N2O2
